.SUBCKT MAX47915 1 2 99 50 97
****************INPUT STAGE**********************
IOS 2 1 .05N
I1 99 4 17E-6
RIN1 104 2 .5E9
RIN2 104 1 .5E9
R1 5 50  3041
R2 6 50 3041
EOS 1 9 POLY(1) 98 30  30U 1
*               ^       OFFSET VOLTAGE, NODE 30 FROM COM. MODE STAGE.
Q1 5 2 4 QX
Q2 6 9 4 QX
* Second Pole 
C4 5 6 2.7E-11
***************SECOND STAGE******************
IS 99 50 -1E-6
*  SETS IS ^   supply current -16uA, 15Vsupply.
****DELAY STAGE****
ED 16 98 12 98 1
RD1 16 17 300
RD2 17 18 300
RD3 18 19 300
RD4 19 20 300
CD1 17 98 300PF
CD2 18 98 300PF
CD3 19 98 300PF
CD4 20 98 300PF
****OUTPUT VOLTAGE LIMITING****
V2 99 11 1.4
D1 12 11 DX
D2 10 12 DX
V3 10 50 1.4
* OUTPUT LEVEL +-14.2V.
****LEVEL TRANSLATION ****
EH 99 98 99 50 0.5
****GAIN, 1ST POLE****
G3 98 12 5 6 3.34E-4
R4 12 98 7.49E9
C3 98 12 4.25E-10
****COMMON-MODE STAGE****
G11 98 30 104 98 7.1E-9
R13 30 98 1E3
*
*******************OUTPUT STAGE****************
F6 99 50 VA7 1
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
****************
G12 98 32 20 98 .1E-3
*         ^ NODE WHERE OUTPUT STAGE TAKES CONTROL VOLT.
R15 98 32 10E3
D3 32 36 DX
D4 37 32 DX
V5 35 37 .3V
V4 36 35 .3V
R16 34 35 75
E1 99 33 99 32 1
VA8 33 34 0V
L 35 96 1U
RL2 96 97 5
* RL2 IMPROVES CONVERGENCE
RL 35 97 10MEG
*
***** MODELS USED ******
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=3167)
.ENDS MAX47915
