.SUBCKT MAX495 111 112 99 50 97
*
****************INPUT STAGE**********************
RCM1 111 1 5000
V12 99 113 .140
D11 1 113 DX
D12 114 1 DX
V13 114 50 .140
***********
V14 99 115 .140
D13 2 115 DX
D14 116 2 DX
V15 50 116 .140
***********
RCM2 112 2 5000
*IOS 2 1 5N
I1 4 50 75E-6
RIN1 1 104 1E9
RIN2 2 104 1E9
R1 5 99 689.3
R2 6 99 689.3
EOS 1 9 POLY(1) 98 30 200U 1
*               ^       OFFSET VOLTAGE, NODE 30 FROM COM. MODE STAGE.
Q1 5 2 103 QX
Q2 6 9 104 QX
REE1 104 4 1
REE2 103 4 1
* Second Pole 
C4 5 6 68PF
***************SECOND STAGE******************
*IS 99 50 .5m
*  SETS IS ^
****OUTPUT VOLTAGE LIMITING****
V2 99 11 .70
D1 12 11 DX
D2 10 12 DX
V3 10 50 .70
****LEVEL TRANSLATION ****
EH 99 98 99 50 0.5
****GAIN, 1ST POLE****
G3 98 12 5 6 0.0012
R4 12 98 1.6936E8
C3 98 12 3.75E-10
*
****COMMON-MODE STAGE****
G11 98 30 104 98 1E-8
R13 30 98 1E3
*
*******************OUTPUT STAGE****************
F6 99 50 VA7 1
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
****************
G12 98 32 12 98 1E-3
R15 98 32 1E3
D3 32 36 DX
D4 37 32 DX
V5 35 37 3.5V
V4 36 35 3.5V
R16 34 35 30
E1 99 33 99 32 1
VA8 33 34 0V
L 35 96 .1U
R17 96 97 .01
*
***** MODELS USED ******
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=6.25E4)
.ENDS MAX495
