.subckt MAX9000  1  2         101  300  400  235  97  197
*
*=======================
VREFCOMP 235 102 0V
VSENSEP 300 3 0V
VSENSEN 400 4 0V
FSENSEP 300 0 VSENSEP -1
FSENSEN 400 0 VSENSEN -1
ISUPPLY 300 400 7UA
*** ********************* MAX951 AMPLIFIER
****************INPUT STAGE**********************
I1 3 41 50U
M1   5  2 41 3 MOSFET
R3   5 4  2.6k
***   was 5.269k
*
M2   6  7 41 3 MOSFET
R4   6 4 2.6k
CI1  1  0 2P
CI2  2  0 2P
DP1  1 3 DA
DP2 4  1 DA
DP3  2 3 DB
DP4 4  2 DB
************ GAIN, 1ST POLE, SLEW STAGE************
EH 3 98 3 4 0.5 
G0  98  9 5 6 4.566e-6
VS 9 10 0V 
R0  98  9 219E9
C3 10 98 .711pf
D1 9 139 DX
D2 112 9 DX
V11 3 139 .149V
V12 112 4 .060V
************      I2 3 4 -19U
EOS 7 1 POLY(1) 16 98 0 1
*CHANGE OFFSET VOLTAGE TO 0V FOR OPEN-LOOP, OTHERWISE VOS
*********COMMON-MODE ZERO STAGE********
G4 98 16 POLY(2) 1 98 2 98 0 1E-9 1E-9                       
R13 98 16 40
******* POLE STAGE **********
G3 98 15 10 98 1E-3
R12 98 15 1E3
*C5 98 15 14.5N 
*C5 98 15 3N
*  
*CCOMP 97 100 20000nf
*RCOMP 100 9 100000
*************OUTPUT STAGE****************
F5 3 38 VA8 1
D9 40 38 DX
D10 38 3 DX
VA7 3 40 0
G12 98 32 15 98 1E-6
*                ^ INSERT NODE FROM LAST STAGE HERE
R15 98 32 1E6
D3 32 36 DX
D4 37 32 DX
V5 35 37 1V
V4 36 35 1V
*V5,V4 SET ISC
R16 34 97 300
E1 3 33 3 32 1
VA8 33 34 0V
RCON 35 97 300
******************************************
.MODEL DA D(IS=100E-14 RS=.5K)
.MODEL DB D(IS=100E-14 RS=.5K)
.MODEL DX D(IS=100E-14)
.MODEL MOSFET PMOS(VTO=-1.7 KP=5E-3)
*VTO ESTABLISHES INPUT VOLT. RANGE
*** ****************** MAX951/2 VOLTAGE REF. 
*
VREF 301 4 1.23V
VSHORT 235 302 0V
RIN200 301 302 1MEG
F226 300 400 VA227 1
F225 3 238 VA228 1
D229 240 238 DX
D230 238 3 DX
VA227 3 240 0
***=====================
G232 0 232 301 302 1E-3
R235 0 232 1E6
C235 0 232 6800PF
D223 232 236 DX2
D224 237 232 DX2
V225 235 237 1.8mV
V224 236 235 .9mV
R236 234 235 60
E221 3 233 3 232 1
VA228 233 234 0V
*
***== MODELS USED ==***
.MODEL DX2 D(IS=1E-15 n=0.001) 
*.MODEL DX D(IS=1E-15) 
***===============================
*       COMPARATOR
* 
.model qin NPN(Is=800.0E-18 Bf=6.25E3)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=249.8E-9)
.MODEL PMOS PMOS 
*(VTO=-1.7 KP=1.8E-3)
.model qoc NPN(Is=800.0E-18 Bf=10.3E3 Cjc=1E-15 Tf=708E-12 Tr=166.7E-9)
.MODEL DP D(N=0.001)
*=======================
  dp100    4  3 DX
  f201    3  109 v101 1
  iee200   107  500 dc 100.0E-6
  q201    109  120  107 qin
  q102    108  121  107 qin
  q103    109  108  499 qmo
  q104    108 108  499 qmi
  VMB100 500 0 0V
  VPB100 499 3 0V
***================
RIN101 102 123 20K
RIN102 101 125 20K
***
DCM102 170 3 DP
DCM101 4 124 DP
VCM101 170 124 1.3V
DCM103 4 126 DP
VCM102 171 126 1.3V
DCM104 171 3 DP
***
***=================
EHYST100 123 120 POLY(1) 0 160 0 1
VS102 121 125 0V
***=================
  e101   110  4  3  109  1
  v101   110 111 dc 0
  q105    105 111  144 qoc
  VSHIFT100  144 500 0V
  R155 499 105 1K
  DP105 105 3 DP
  DP106 4 105 DP
***============= Hysterisis section
GH100 0 151 197 0 .5E-6
RH101 3 51 1E9
RH102 4 51 1E9
DP101 151 152 DP
DP102 153 151 DP
VP100 152 0 1V
VP102 153 0 -1V
***=================
GHYST100 155 0 4 0 1E-6
GREF100 0 155 235 4 1E-6 
*NODE 235 STAYS SAME FOR BOTH AMPLIFIERS.
RREF100 155 0 1E6
DP110 155 156 DP
DP120 157 155 DP
VP110 156 0 50MV
VP120 157 0 0MV
*LOGIC OUTPUT, NODE 60 ALTERS THE POLARITY, SO 55 SHOULD ALWAYS BE POS.
GMULT100 160 0 POLY(2) 151 0 155 0 0 0  0 0 1E-6
RMULT100 160 0 1E6
*================
VVIRTUAL100 198 0 0V
F105 3 138 VA108 1
D109 140 138 DX
D110 138 3 DX
VA107 3 140 0
F106 300  400 VA107 1
G112 198 132 105 0 7.04E-3
R115 198 132 142
D103 136 141 DX
D104 142 137 DX
V105 134 136 -.63
V104 137 134 -.65
****V104,V105 SET ISC
R116 141 197 300
R117 142 197 300
E111 3 133 3 132 1
VA108 133 134 0V
*========================
.ENDS MAX9000
